* File: halfadder.pex.netlist.pex
* Created: Thu Nov 17 21:58:30 2022
* Program "Calibre xRC"
* Version "v2016.4_38.25"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_HALFADDER%NET09 1 5 7 9 10 13 16 25
c23 25 0 0.00722199f
c24 16 0 0.0015182f
c25 13 0 0.00275688f
c26 9 0 0.0382185f
c27 5 0 0.0572095f
c28 1 0 0.0185223f
r29 16 22 0.192522
r30 14 25 4.7687
r31 13 22 0.365385
r32 13 14 89.3538
r33 9 10 3.25714
r34 9 16 0.977143
r35 5 7 92.82
r36 3 5 38.22
r37 1 3 4.35808
r38 1 25 37.44
.ends

.subckt PM_HALFADDER%A 3 7 11 13
c16 13 0 0.0034923f
c17 11 0 0.00843003f
c18 7 0 0.0198006f
c19 3 0 0.0247732f
r20 11 15 6.09375
r21 11 13 89.3538
r22 5 15 2.22942
r23 5 7 29.64
r24 1 15 2.22942
r25 1 3 50.7
.ends

.subckt PM_HALFADDER%NET07 1 5 8 9 13 16 18 19 27
c48 27 0 0.00540214f
c49 18 0 0.0317964f
c50 17 0 0.00220635f
c51 13 0 0.057378f
c52 9 0 0.038116f
c53 5 0 0.0647949f
c54 1 0 0.0465308f
r55 26 27 67.4143
r56 19 26 1.60143
r57 18 19 3.25714
r58 13 16 99.84
r59 11 16 45.24
r60 10 17 3.30287
r61 9 11 4.35808
r62 9 10 87.36
r63 5 8 99.84
r64 3 17 0.858359
r65 3 8 45.24
r66 2 27 1.73169
r67 1 17 3.30287
r68 1 2 106.86
.ends

.subckt PM_HALFADDER%COUT 1 2 7
c10 1 0 0.0250651f
r11 2 7 1.16714
r12 1 7 2.09
.ends

.subckt PM_HALFADDER%NET14 3 7 11 16 17 18 21 24 25 26 27 28 38 41 46 47 49 54
+ 56 64
c88 64 0 0.0069289f
c89 56 0 0.00388479f
c90 54 0 0.00131549f
c91 53 0 1.35032e-19
c92 50 0 0.00915456f
c93 49 0 0.00375709f
c94 47 0 0.00200572f
c95 46 0 0.0121476f
c96 41 0 0.0028378f
c97 38 0 0.0057838f
c98 28 0 0.00753234f
c99 27 0 0.00873459f
c100 26 0 0.00901425f
c101 25 0 0.0188969f
c102 21 0 0.0628644f
c103 18 0 0.00356987f
c104 17 0 0.0741224f
c105 16 0 0.0347095f
c106 11 0 0.0212868f
c107 7 0 0.0245737f
c108 3 0 0.0327845f
r109 57 64 8.1
r110 56 57 89.3538
r111 50 58 6.09375
r112 49 50 89.3538
r113 46 56 0.0223169
r114 46 47 2.19231
r115 42 54 0.160909
r116 41 54 0.160909
r117 40 47 0.212696
r118 40 41 0.488571
r119 39 53 0.19
r120 38 54 0.0418175
r121 38 39 1.79143
r122 34 53 0.19
r123 30 53 0.19
r124 29 49 0.00808061
r125 28 53 0.19
r126 28 29 0.977143
r127 27 42 1.05857
r128 26 34 1.05857
r129 25 30 2.06286
r130 21 24 99.84
r131 19 24 49.92
r132 17 19 4.35808
r133 17 18 174.72
r134 14 18 4.35808
r135 14 16 49.92
r136 13 64 1.45522
r137 13 16 54.6
r138 9 64 1.45522
r139 9 11 35.1
r140 5 58 2.22942
r141 5 7 29.64
r142 1 58 2.22942
r143 1 3 50.7
.ends

.subckt PM_HALFADDER%NET22 3 6 7 8 9 14 15 24 26 29 32
c45 32 0 0.00785224f
c46 29 0 8.51573e-19
c47 26 0 0.00741923f
c48 24 0 0.00256873f
c49 15 0 0.00178278f
c50 14 0 0.00568743f
c51 9 0 0.00876932f
c52 8 0 0.00811263f
c53 7 0 0.0172797f
c54 3 0 0.0509828f
r55 27 32 8.91429
r56 26 27 77.0449
r57 24 26 0.895714
r58 21 24 0.212317
r59 20 29 0.151219
r60 16 29 0.151219
r61 14 29 0.0501704
r62 14 15 1.92923
r63 10 15 0.212696
r64 9 21 0.814286
r65 9 20 0.95
r66 8 10 0.95
r67 7 16 2.19857
r68 3 6 99.84
r69 1 32 1.73169
r70 1 6 24.18
.ends

.subckt PM_HALFADDER%S 1 2 3 9 14 20
c27 20 0 0.00100568f
c28 14 0 0.00843398f
c29 3 0 0.00796739f
c30 2 0 0.0074189f
c31 1 0 0.0177266f
r32 15 20 0.0501704
r33 14 16 0.212696
r34 14 15 1.9
r35 10 20 0.151219
r36 4 20 0.151219
r37 4 9 0.0542857
r38 3 16 0.95
r39 2 10 0.95
r40 1 9 2.14429
.ends

.subckt PM_HALFADDER%NET30 3 7 9 10 11 12 15 25
c43 31 0 1.35032e-19
c44 25 0 0.0094751f
c45 15 0 0.00529263f
c46 12 0 0.0105583f
c47 11 0 0.0157886f
c48 10 0 0.0163205f
c49 9 0 0.0110264f
c50 7 0 0.0292398f
c51 3 0 0.0166233f
r52 26 31 0.19
r53 25 27 0.212317
r54 25 26 1.76429
r55 21 31 0.19
r56 17 31 0.19
r57 14 15 77.0449
r58 12 31 0.19
r59 12 14 1.38429
r60 11 27 2.25286
r61 10 21 2.25286
r62 9 17 0.868571
r63 5 15 5.66258
r64 5 7 62.4
r65 1 15 5.66258
r66 1 3 23.4
.ends

.subckt PM_HALFADDER%NET013 3 5 7 8 11 13 18 19 21 22 30
c52 30 0 0.0351257f
c53 22 0 0.00572478f
c54 21 0 0.0330002f
c55 17 0 0.00229595f
c56 11 0 0.0607849f
c57 8 0 0.00440595f
c58 7 0 0.102232f
c59 3 0 0.0602709f
r60 22 30 3.90203
r61 21 22 82.9714
r62 18 19 3.25714
r63 18 21 1.83214
r64 16 17 2.83063
r65 16 30 66.3
r66 11 13 99.84
r67 9 17 1.28291
r68 9 11 45.24
r69 7 17 2.83063
r70 7 8 198.9
r71 3 5 99.84
r72 1 8 4.4051
r73 1 3 45.24
.ends

.subckt PM_HALFADDER%B 3 7 13 17
c17 17 0 0.00844588f
c18 13 0 0.00341042f
c19 7 0 0.0199834f
c20 3 0 0.0237322f
r21 11 17 6.09375
r22 11 13 89.3538
r23 5 17 2.22942
r24 5 7 29.64
r25 1 17 2.22942
r26 1 3 50.7
.ends

.subckt PM_HALFADDER%GND! 1 2 3 4 5 6 7 16 25 33 36 44 53 62 71 80
c81 100 0 0.00274998f
c82 99 0 0.00270545f
c83 98 0 0.00270545f
c84 97 0 0.00272088f
c85 96 0 0.00272088f
c86 95 0 0.00274789f
c87 94 0 0.00275608f
c88 80 0 0.0210697f
c89 71 0 0.0260514f
c90 62 0 0.0479502f
c91 53 0 0.00583855f
c92 44 0 0.0282545f
c93 33 0 0.0305075f
c94 25 0 0.0175879f
c95 16 0 0.0174418f
c96 7 0 0.0181406f
c97 6 0 0.0150265f
c98 5 0 0.01636f
c99 4 0 0.0165381f
c100 3 0 0.0156268f
c101 2 0 0.0207975f
c102 1 0 0.0195835f
r103 89 100 0.100685
r104 85 100 0.103985
r105 81 99 0.100685
r106 80 100 0.100685
r107 76 99 0.103985
r108 72 98 0.100685
r109 71 99 0.100685
r110 67 98 0.103985
r111 63 97 0.100685
r112 62 98 0.100685
r113 58 97 0.103985
r114 54 96 0.100685
r115 53 97 0.100685
r116 49 96 0.103985
r117 45 95 0.100685
r118 44 96 0.100685
r119 40 95 0.103985
r120 34 94 0.100685
r121 34 36 0.76
r122 33 95 0.100685
r123 29 94 0.103985
r124 25 94 0.100685
r125 16 89 0.490833
r126 16 80 0.205833
r127 16 81 1.07667
r128 16 71 0.221667
r129 16 72 1.425
r130 16 62 0.253333
r131 16 63 2.6125
r132 16 53 0.174167
r133 16 54 0.269167
r134 16 44 0.269167
r135 16 45 1.44083
r136 16 33 0.2375
r137 16 36 0.775833
r138 16 25 0.205833
r139 7 85 2.57857
r140 6 76 2.33429
r141 5 67 2.33429
r142 4 58 2.33429
r143 3 49 2.33429
r144 2 40 2.57857
r145 1 29 2.57857
.ends

.subckt PM_HALFADDER%VDD! 9 10 11 12 13 14 15 16 25 34 43 52 55 63 72 81
c80 101 0 0.00284949f
c81 100 0 0.00282248f
c82 99 0 0.00282248f
c83 98 0 0.00284949f
c84 97 0 0.00284949f
c85 96 0 0.00285166f
c86 95 0 0.00284949f
c87 81 0 0.0347631f
c88 72 0 0.0278929f
c89 63 0 0.0255747f
c90 52 0 0.0290349f
c91 43 0 0.0176232f
c92 34 0 0.0311598f
c93 25 0 0.0146811f
c94 16 0 0.0175617f
c95 15 0 0.0231905f
c96 14 0 0.0172692f
c97 13 0 0.0156153f
c98 12 0 0.0185322f
c99 11 0 0.0156527f
c100 10 0 0.0156773f
c101 9 0 0.0209611f
r102 90 101 0.087517
r103 86 101 0.122195
r104 82 100 0.087517
r105 81 101 0.087517
r106 77 100 0.122195
r107 73 99 0.087517
r108 72 100 0.087517
r109 68 99 0.122195
r110 64 98 0.087517
r111 63 99 0.087517
r112 59 98 0.122195
r113 53 97 0.087517
r114 53 55 0.583571
r115 52 98 0.087517
r116 48 97 0.122195
r117 44 96 0.087517
r118 43 97 0.087517
r119 39 96 0.122195
r120 35 95 0.087517
r121 34 96 0.087517
r122 30 95 0.122195
r123 25 95 0.087517
r124 16 90 0.366429
r125 16 81 0.257857
r126 16 82 1.39786
r127 16 72 0.176429
r128 16 73 1.235
r129 16 63 0.203571
r130 16 64 1.18071
r131 16 52 0.176429
r132 16 55 0.705714
r133 16 43 0.176429
r134 16 44 0.746429
r135 16 34 0.176429
r136 16 35 1.34357
r137 16 25 0.230714
r138 15 86 2.41571
r139 14 77 2.41571
r140 13 68 2.41571
r141 12 59 2.41571
r142 11 48 2.41571
r143 10 39 2.41571
r144 9 30 2.41571
.ends

.subckt PM_HALFADDER%NET017 3 5 8 9 10 11 19 21
c22 21 0 0.0142057f
c23 19 0 0.00650109f
c24 11 0 0.00286161f
c25 9 0 0.0375507f
c26 8 0 0.00396468f
c27 3 0 0.0530376f
r28 19 21 4.7687
r29 18 19 89.3538
r30 11 18 0.177754
r31 9 10 3.25714
r32 9 11 0.977143
r33 8 21 37.44
r34 3 5 92.82
r35 1 8 4.35808
r36 1 3 27.3
.ends

