* File: inv.pex.netlist.pex
* Created: Thu Sep 22 11:30:03 2022
* Program "Calibre xRC"
* Version "v2016.4_38.25"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_INV_A 1 2
c4 1 0 0.0111987f
r5 1 2 0.454773
.ends

.subckt PM_INV_GND! 1 2 14
c4 14 0 0.0160131f
c5 1 0 0.0338124f
r6 2 14 0.85
r7 1 14 0.720563
.ends

.subckt PM_INV_VDD! 1 2
c4 2 0 0.02721f
c5 1 0 0.0244218f
r6 1 2 0.9
.ends

.subckt PM_INV_Z 1 2
c4 1 0 0.054799f
r5 1 2 0.95
.ends

