* File: myInverter.pex.netlist.pex
* Created: Thu Sep 22 20:20:18 2022
* Program "Calibre xRC"
* Version "v2016.4_38.25"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_MYINVERTER%A 3 7 11 13
c12 13 0 0.00490616f
c13 11 0 0.00577268f
c14 7 0 0.0385636f
c15 3 0 0.0338681f
r16 11 13 89.3538
r17 5 11 4.7687
r18 5 7 50.7
r19 1 11 4.7687
r20 1 3 53.04
.ends

.subckt PM_MYINVERTER%GND! 1 3 12 15 22 24
c10 24 0 0.0221634f
c11 22 0 0.0156651f
c12 12 0 0.0144272f
c13 3 0 0.00695691f
c14 1 0 0.00888104f
r15 16 24 0.026987
r16 13 22 0.0223169
r17 13 15 0.803429
r18 12 24 0.179556
r19 12 15 0.635143
r20 7 22 0.599665
r21 3 7 0.38
r22 1 16 0.653125
.ends

.subckt PM_MYINVERTER%VDD! 2 3 12 15 22 23
c10 23 0 0.0236219f
c11 22 0 0.0109543f
c12 12 0 0.0130273f
c13 3 0 0.0149841f
c14 2 0 0.0163803f
r15 16 23 0.0569232
r16 13 22 0.134928
r17 13 15 0.76
r18 12 23 0.143785
r19 12 15 0.57
r20 7 22 0.065406
r21 3 7 1.46154
r22 2 16 1.54714
.ends

.subckt PM_MYINVERTER%Z 1 2 3 5 10 14
c12 14 0 0.0058876f
c13 10 0 0.0349159f
c14 5 0 0.00697671f
c15 3 0 0.00877614f
c16 2 0 0.00731702f
r17 8 10 1.70457
r18 7 10 1.90543
r19 5 7 0.212696
r20 5 14 0.701538
r21 3 8 0.214913
r22 2 3 0.581176
r23 1 14 0.2253
.ends

